US08124364B2
Step 3: Preparation of N-(13-amino-4,7,10-trioxa-tridecanyl)biotinamide
Biotin TFP ester (5 g, 12.8 mmol) was added to a dry flask containing 200 mL anhydrous DMF. In another dry flask containing 28 g (128 mmol) 4,7,10-trioxa-1,13-tridecanediamine, 8, was added 4 mL of triethylamine. Both flasks were cooled to 0-5° C. with ice-water baths. The TFP ester of biotin was added dropwise to the tri-oxatridecanediamine solution over the period of 1 h. The reaction was stirred at room temperature for 30 min and the solvent was removed under vacuum. The resulting oil was triturated in 500 mL ether and was stirred for 30 min. The solid was filtered, then dissolved in methanol:ethyl acetate (4:1), and loaded onto a silica column (2.5 cm×35 cm). The column was eluted with the same solvent mixture. Fractions containing product were collected, and solvent was removed under vacuum. The isolated product was dried under vacuum to yield 4.5 g (79%) of, 9, as a colorless solid, mp 104-106° C. 1H NMR (MeOH, ( ): 1.46 (m, 2H), 1.6-1.8 (m, 9H), 2.2 (t, 2H), 2.7 (d, 1H), 2.75-2.9 (m, 3H), 3.2-3.3 (m, 5H), 3.5-3.6 (m, 14H), 4.3 (m, 1H), 4.5 (m, 1H); IR (KBr, cm-1): 3280, 2910, 2850, 1690, 1640, 1110, 940. Analysis calc. for C20H38N4O5S.H2O: C, 51.70; H, 8.68; N, 12.06. Found: C, 51.95; H, 7.98; N, 11.65.

reactant | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | 4,7,10-trioxa-1,13-tridecanediamine | 128 mmol, 28 g | C(CCOCCOCCOCCCN)N | C10H24N2O3
reactant | tri-oxatridecanediamine | C(OOOCCCCCCCCC)(N)N | C10H24N2O3
reactant | KBr | [K+].[Br-]
solvent | MeOH | CO | CH4O
solvent | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | N-(13-amino-4,7,10-trioxa-tridecanyl)biotinamide | NCCCOCCOCCOCCCNC(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O | C20H38N4O5S
